US07612211B2
A. acetic acid 4-cyclopropyl-phenyl ester
To a solution of diethylzinc (200 mL, 0.220 mol, 1.1 M in toluene) in toluene (270 mL) was added 4-acetoxystyrene (16.8 mL, 0.110 mol) and subsequently diiodomethane (23.0 mL, 0.286 mol). After the reaction mixture was stirred at rt for 5 hours, it was heated at reflux for 12 hours. The reaction was quenched with aqueous 2N HCl. The organic layer was separated and washed with brine, dried over Na2SO4, filtered, and the filtrate was concentrated under reduced pressure to afford the title compound as a brown oil (16.1 g, 83%).

reactant | diethylzinc | 0.220 mol, 1.1 M, 200 mL | C(C)[Zn]CC
reactant | 4-acetoxystyrene | 0.110 mol, 16.8 mL | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
reactant | diiodomethane | 0.286 mol, 23.0 mL | ICI | CH2I2
solvent | toluene | 270 mL | C1(=CC=CC=C1)C | C7H8
product | acetic acid 4-cyclopropyl-phenyl ester | 16.1 g, 83% | C1(CC1)C1=CC=C(C=C1)OC(C)=O | C11H12O2
